US04533655
A solution of N2 -benzyloxycarbonyl-N2 -methyl-N-(3-phenylpropyl)-D-alaninamide (7.54 g.) in ethanol (200 ml.) containing palladium on carbon (10%, 200 mg.) was hydrogenated under pressure (40 p.s.i.g.), filtered and stripped of volatiles, affording N2 -methyl-N-(3-phenylpropyl)-D-alaninamide.

reactant | N2 benzyloxycarbonyl-N2 -methyl-N-(3-phenylpropyl)-D-alaninamide | 7.54 g | N#N.C(C1=CC=CC=C1)OC(=O)N([C@H](C)C(=O)NCCCC1=CC=CC=C1)C
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | N2 methyl-N-(3-phenylpropyl)-D-alaninamide | N#N.CN[C@H](C)C(=O)NCCCC1=CC=CC=C1 | InChI=1S/C13H20N2O.N2/c1-11(14-2)13(16)15-10-6-9-12-7-4-3-5-8-12;1-2/h3-5,7-8,11,14H,6,9-10H2,1-2H3,(H,15,16);/t11-;/m1./s1
